US06686369B1
1.75 g (6.2 mmol) of ethyl 2-hydroxy-3,3-diphenylbutyrate were dissolved in 10 ml of THF, and a solution of 0.23 g (9.3 mmol) of LiOH in 6 ml of water was added. The mixture was stirred at room temperature for 16 hours and at 40° C. for 4 hours. The mixture was subsequently concentrated under reduced pressure, taken up in water and washed with ethyl acetate. This was followed by acidification with HCl and extraction three times with ethyl acetate. The combined ethyl acetate phases were dried with MgSO4, and the solvent was stripped off under reduced pressure. The residue was chromatographed on silica gel with CH2Cl2/MeOH (2:1). 0.80 g (50%) of 2-hydroxy-3,3-diphenylbutyric acid was obtained.

reactant | ethyl 2-hydroxy-3,3-diphenylbutyrate | 6.2 mmol, 1.75 g | OC(C(=O)OCC)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H20O3
reactant | LiOH | 9.3 mmol, 0.23 g | [Li+].[OH-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 6 ml | O | H2O
product | 2-hydroxy-3,3-diphenylbutyric acid | 0.80 g, 50% | OC(C(=O)O)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O3
